US04838924
7-(4-Aminophenoxy)-2,3-dihydro-2-hydroxy-2,4,4-trimethyl-4H-1-benzopyran (an intermediate of compound No. 319)
A mixture of 5.0 g of 7-(4-nitrophenoxy)-2,4,4-trimethyl-4H-1-benzopyran, 0.5 g of 5% palladium-carbon and 50 ml of ethyl acetate was stirred at room temperature for 5.5 hours in an atmosphere of hydrogen. The palladium-carbon was separated by filtration, and the filtrate was concentrated. The residue was recrystallized from ethyl acetate-hexane to give 4.3 g (yield 93%) of the desired product as a white powder.

reactant | 7-(4-nitrophenoxy)-2,4,4-trimethyl-4H-1-benzopyran | 5.0 g | [N+](=O)([O-])C1=CC=C(OC2=CC3=C(C(C=C(O3)C)(C)C)C=C2)C=C1 | C18H17NO4
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 7-(4-Aminophenoxy)-2,3-dihydro-2-hydroxy-2,4,4-trimethyl-4H-1-benzopyran | 4.3 g, yield 93% | NC1=CC=C(OC2=CC3=C(C(CC(O3)(C)O)(C)C)C=C2)C=C1 | C18H21NO3
